datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"[O:10]([Na])C(C)C(C)/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OCCCCCC.C1=CC=CC=C1[O:10][Na]>>C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OCCCCCC 10=21;21,20=20"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[O:10]([K])C(C)C(C)C(C)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(C)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"[O:10]([Na])C(CC)C(O)C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O+:10]([Na])C(CC)C(O)C1O 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)C)C)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C([O-:21])C)C)CC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)C>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[OH:10]C(CCC)C(C)C(C)C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C(C)C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])C(O)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(O)C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CC.[O-:21][H] 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OCC)OC)[H]>>[K][O:21][H].[C:20](=[O:10])(OCC)OC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1 10=20;20,21=21"
"[H][S:10]C([H])C([H])C([H])[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])[H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C)[O]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]([O:21]C)([O]C)[O]C.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C([H])C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C([H])C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]2([O:10]C(C7=C2C=CC=C7)[H])OCC>>[O-:10]C(C(C=CC=C9)=C9[C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C)CC)C)[O-:10])CCCCCC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
